US06680311B1
A mixture of 4-hydroxymethyl-benzoic acid methylester (2 gm) and triethylamine (3.36 mL) in dichloromethane (15 mL) was treated with t-butyldimethylsilyltriflate (4.47 gm) at −78° C. After 30 min the contents were allowed to warm up to the room temperature and continued the stirring for another 30 min. Water (30 mL) and ethylacetate (60 mL) were added to the reaction mixture and the organic layer was washed with 0.3 M KHSO4, water and brine, dried over MgSO4 and filtered. The solvent was evaporated and the residue was subjected to flash chromatography on silica column by eluting with 10% EtOAc/hexane to obtain 4-(t-butyldimethylsilyloxymethyl) benzoic acid methyl ester (3.3 gm, 95% yield).

reactant | 4-hydroxymethyl-benzoic acid methylester | 2 gm | COC(C1=CC=C(C=C1)CO)=O | C9H10O3
reactant | triethylamine | 3.36 mL | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilyltriflate | 4.47 gm | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | Water | 30 mL | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | ethylacetate | 60 mL | C(C)OC(C)=O | C4H8O2
product | 4-(t-butyldimethylsilyloxymethyl) benzoic acid methyl ester | 3.3 gm, 95% yield | COC(C1=CC=C(C=C1)CO[Si](C)(C)C(C)(C)C)=O | C15H24O3Si
